US08604029B2
To a solution of 2-(4-nitro-benzyl)-1H-imidazole (1.58 g, 7.37 mmol) in DMF (10 mL) was added N,N-diisopropylethyl amine (1.93 mL, 11.05 mmol) and heated to 5° C. for 30 min. Ethyl iodide (1.18 mL, 7.37 mmol) was added dropwise and the reaction mixture heated to reflux for 6 h. The solvent was evaporated under reduced pressure, the residue dissolved in dichloromethane and washed with water. The organic layer was dried over sodium sulfate, filtered, evaporated and the residue purified by column chromatography over silica gel (60-120 mesh) using 3% methanol/chloroform as eluent to afford 1-ethyl-2-(4-nitrobenzyl)-1H-imidazole (0.35 g, 21%).

reactant | 2-(4-nitro-benzyl)-1H-imidazole | 7.37 mmol, 1.58 g | [N+](=O)([O-])C1=CC=C(CC=2NC=CN2)C=C1 | C10H9N3O2
reactant | N,N-diisopropylethyl amine | 11.05 mmol, 1.93 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | Ethyl iodide | 7.37 mmol, 1.18 mL | C(C)I | C2H5I
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 1-ethyl-2-(4-nitrobenzyl)-1H-imidazole | 0.35 g, 21% | C(C)N1C(=NC=C1)CC1=CC=C(C=C1)[N+](=O)[O-] | C12H13N3O2
